US04880812
(c) Preparation of 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl) propionaldehyde diethyl acetal
A stirred mixture of 7.20 g (28.1 mmol) of 3-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde diethyl acetal, 30 ml of dry pyridine and 30 ml of freshly distilled acetic anhydride was heated on an oil bath at 90° for 6 hours and then stirred at ambient temperature overnight. Solution occurred within 15 minutes as a mixture of diacetyl and triacetyl pyrimidinone formed; extended reaction was required to obtain only the title compound. The solution was spin evaporated in vacuo to give an oil. Ethyl acetate was added and spin evaporated several times until a solid was obtained. The solid was dispersed in cyclohexane and collected; yield, 8.88 g (82%), mp 126°-137° (one spot on TLC). Recrystallization of a portion from cyclohexane-ethylacetate gave the analytical sample, mp 138°-139° ; TLC (C6H6 :EtOH/5:1); NMR (DMSO-d6)δ1.08 (t, 6H, 2CH2CH3), 1.63 (m, 2H, CH2CH 2CH), 2.13 (s, 3H, Ac), 2.27 (s, 6H, 2Ac), 2.2 (2H, CH2CH, superimposed on the acetyl singlets), 3.2-3.7 (m, 4H, 2 x OCH2), 4.42 (t, 1H, CH), 11.87 (br s, 2H, AcNH and HNC(0)).

reactant | 3-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde diethyl acetal | 28.1 mmol, 7.20 g | C(C)OC(CCC1=C(N=C(NC1=O)N)N)OCC | C11H20N4O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl) propionaldehyde diethyl acetal | C(C)OC(CCC1=C(N=C(NC1=O)NC(C)=O)N(C(C)=O)C(C)=O)OCC | C17H26N4O6
